US08349849B2
6-(trans-4-tert-butyl-cyclohexyloxy)-quinoline 1-oxide
6-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline (6.11 g, 0.0216 mol) was dissolved in acetone (100 mL, Acros), followed by m-chloroperbenzoic acid (11.7 g, 0.0542 mol, Aldrich) in small portions at RT. The reaction mixture was then stirred at 23° C. for 1.5 hours. Sodium thiosulfate was added, 97.6 mL of a saturated aqueous solution. The reaction mixture was then allowed to stir for 45 minutes. Excess of solvents were removed under vacuum, and the residue was diluted with water and extracted with methylene chloride. Combined organic layers were treated with magnesium sulfate, filtered and evaporated. The residue was taken up in methylene chloride and silica gel was added. The solvents were removed. The residue was then purified via chromatography (SiO2, 0-10% MeOH/DCM) to give the product (Rf=0.19 in 5% methanol/methylene chloride). The appropriate fractions were combined to give the product in 4.99 g yield (77%).

reactant | 6-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline | 0.0216 mol, 6.11 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC=NC2=CC1 | C19H25NO
reactant | m-chloroperbenzoic acid | 0.0542 mol, 11.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 6-(trans-4-tert-butyl-cyclohexyloxy)-quinoline 1-oxide | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC=[N+](C2=CC1)[O-] | C19H25NO2
